US05026853
A mixture of 3.6 parts of 1-[5,5-bis(4-fluorophenyl)pentyl]-3-methylpiperazine, 3 parts of N-(4-acetyl-2,6-dichlorophenyl)-2-chloroacetamide, 1.9 parts of N,N-diethylethanamine and 45 parts of N,N-dimethyformamide was stirred for 20 hours at 70° C. The reaction mixture was evaporated and the residue was taken up in a mixture of sodium carbonate and water. The product was extracted with dichloromethane. The extract was washed with water, dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (98:2 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was converted into the hydrochloride salt in 2-propanol and 2,2'-oxybispropane. The product was filtered off and dried in vacuo at 40° C., yielding 1.74 parts (22.8%) of N-(4-acetyl-2,6-dichlorophenyl)-4-[5,5-bis(4-fluoro-phenyl)pentyl]-2-methyl-1-piperazineacetamide dihydrochloride, 2-propanol(1:1), sesquihydrate; mp. 176.3° C. (compound 54).

reactant | 1-[5,5-bis(4-fluorophenyl)pentyl]-3-methylpiperazine | FC1=CC=C(C=C1)C(CCCCN1CC(NCC1)C)C1=CC=C(C=C1)F | C22H28F2N2
reactant | N-(4-acetyl-2,6-dichlorophenyl)-2-chloroacetamide | C(C)(=O)C1=CC(=C(C(=C1)Cl)NC(CCl)=O)Cl | C10H8Cl3NO2
reactant | N,N-diethylethanamine | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethyformamide | CN(C=O)C | C3H7NO
product | N-(4-acetyl-2,6-dichlorophenyl)-4-[5,5-bis(4-fluoro-phenyl)pentyl]-2-methyl-1-piperazineacetamide dihydrochloride | 22.8% | Cl.Cl.C(C)(=O)C1=CC(=C(C(=C1)Cl)NC(CN1C(CN(CC1)CCCCC(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)C)=O)Cl | InChI=1S/C32H35Cl2F2N3O2.2ClH/c1-21-19-38(15-16-39(21)20-31(41)37-32-29(33)17-25(22(2)40)18-30(32)34)14-4-3-5-28(23-6-10-26(35)11-7-23)24-8-12-27(36)13-9-24;;/h6-13,17-18,21,28H,3-5,14-16,19-20H2,1-2H3,(H,37,41);2*1H
